US06703392B2
2-[1-(4-ethoxy-3-methoxy-benzyl)-6,7-dimethoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-benzyl-acetamide:
prepared by reaction of 2-[1-(4-hydroxy-3-methoxy-benzyl)-6,7-dimethoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-benzyl-acetamide with ethyl iodide

reactant | 2-[1-(4-hydroxy-3-methoxy-benzyl)-6,7-dimethoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-benzyl-acetamide | OC1=C(C=C(CC2N(CCC3=CC(=C(C=C23)OC)OC)CC(=O)NCC2=CC=CC=C2)C=C1)OC | C28H32N2O5
reactant | ethyl iodide | C(C)I | C2H5I
product | 2-[1-(4-ethoxy-3-methoxy-benzyl)-6,7-dimethoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-benzyl-acetamide | C(C)OC1=C(C=C(CC2N(CCC3=CC(=C(C=C23)OC)OC)CC(=O)NCC2=CC=CC=C2)C=C1)OC | C30H36N2O5
